US04481268
N'-(5-Nitro-2-pyridyl)acethydrazide
Acetyl chloride (0.51 g, 6.5 mmole) was added dropwise to a stirred solution of 2-hydrazino-5-nitropyridine (1.0 g, 6.5 mmole) in tetrahydrofuran (20 ml). Pyridine (0.51 g, 6.5 mmole) was added, the mixture stirred for 0.5 h, and then poured into water (200 ml). The aqueous solution was extracted with ethyl actate, the extract dried (MgSO4) and the solvent removed under reduced pressure. Recrystallisation of the residue from 1,2-dichloroethane afforded the pure product, 1.1 g, 86%, as a cream coloured solid, m.p. 226°-227° C.

reactant | Acetyl chloride | 6.5 mmole, 0.51 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-hydrazino-5-nitropyridine | 6.5 mmole, 1.0 g | N(N)C1=NC=C(C=C1)[N+](=O)[O-] | C5H6N4O2
reactant | Pyridine | 6.5 mmole, 0.51 g | N1=CC=CC=C1 | C5H5N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N'-(5-Nitro-2-pyridyl)acethydrazide | [N+](=O)([O-])C=1C=CC(=NC1)NNC(C)=O | C7H8N4O3
